US04820871
0.5 mole of diphenylamine was taken together with 0.53 mole of n-butyl isocyanate and 1 g of di-n-butyl phosphate in 150 ml of xylene. The mixture was heated at 120° C. for 24 hours, with stirring, and then cooled to room temperature. After the product had been filtered off, washed with 100 ml of cold xylene and dried, 0.3 mole of N-n-butyl-N',N'-diphenylurea was obtained. Melting point: 92° C./yield: 60% of theory.

reactant | diphenylamine | 0.5 mole | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | n-butyl isocyanate | 0.53 mole | C(CCC)N=C=O | C5H9NO
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | di-n-butyl phosphate | 1 g | P(=O)(OCCCC)(OCCCC)[O-]
product | N-n-butyl-N',N'-diphenylurea | 0.3 mole, yield: 60% | C(CCC)NC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C17H20N2O
